US09382238B2
To a solution of tert-butyl 2-cyano-2-(5-nitro-3-(trifluoromethyl)pyridin-2-yl)acetate (7 g, 21.13 mmol) in MeOH (100 mL) was added aqueous HCl (40 mL, 1316 mmol). The resulting mixture was stirred at 100° C. overnight. After TLC analysis (PE/EA=10/1) showed the starting material was consumed, the solvent was removed in vacuo. The residue was dissolved in H2O (50 mL) and extracted by EA (100 mL). The organic layer was washed with aqueous NaHCO3 and brine and then dried over Na2SO4. After filtration, the filtrate was concentrated to give the crude product, which was purified by column chromatography (PE/EA=10/1) to yield a brown solid of 2-(5-nitro-3-(trifluoromethyl)pyridin-2-yl)acetonitrile (4.3 g, 17.77 mmol, 84% yield): 1H NMR (400 MHz, CD3OD) δ 9.59 (s, 1H), 8.88 (d, J=2.4 Hz, 1H), 4.86 (s, 2H); ES-LCMS m/z: 232.1 (M+H).

reactant | tert-butyl 2-cyano-2-(5-nitro-3-(trifluoromethyl)pyridin-2-yl)acetate | 21.13 mmol, 7 g | C(#N)C(C(=O)OC(C)(C)C)C1=NC=C(C=C1C(F)(F)F)[N+](=O)[O-] | C13H12F3N3O4
reactant | HCl | 1316 mmol, 40 mL | Cl | ClH
reactant | EA | CC(OCC)=O | C4H8O2
solvent | MeOH | 100 mL | CO | CH4O
product | 2-(5-nitro-3-(trifluoromethyl)pyridin-2-yl)acetonitrile | 17.77 mmol, 4.3 g, 84% yield | [N+](=O)([O-])C=1C=C(C(=NC1)CC#N)C(F)(F)F | C8H4F3N3O2
